US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (2,2,2-trifluoroethyl)-amide (551-17B):
the title compound (11 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), 2,2,2-trifluoroethylamine (48 μL, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 392.4 (M+1, 100%). Yield=9%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | 2,2,2-trifluoroethylamine | 0.60 mmol, 48 μL | FC(CN)(F)F | C2H4F3N
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (2,2,2-trifluoroethyl)-amide | 11 mg, Yield=9% | FC(CNS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1)(F)F | C13H12F3N5O2S2
